Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amoxicillin / Premarin / 
Gantrisin / aspirin / ranitidine / Estrogens
 
Attending: ___.
 
Chief Complaint:
leg wound, failure to thrive
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical history 
of RA on MTX, HLD, GERD, MVP, osteoporosis, and anxiety who 
presents from home for leg wound, concern for failure to thrive. 
Patient is profoundly hard of hearing and history is limited, 
communicated using patient's white board and marker. Per note 
OMR from ___, patient has been increasingly agitated 
and anxious at home, refusing care, was combative with hospice 
RN today when trying to provide wound care. Patient presented to 
___ approximately 1 month ago after mechanical fall - was 
discharged home from ED. She resides at ___ 
___.  ___ agreed to receive her back to 
their facility with the understanding she would have ___ 
private aide support.  This was arranged with Health Works 
agency by her advocate, ___ (not her healthcare 
proxy). ___ did not discuss this with the patient 
prior. Since being back in her apartment, patient has refused to 
pay for help during the night. Due to safety concerns and 
noncompliance with care, hospice benefits were revoked. She was 
brought to ___ for evaluation of her leg wound as well concern 
for FTT and safety issues at home. 

Currently, she denies CP or SOB, denies abdominal pain. Reports 
her legs hurt from time to time; has burning pain in her heels. 
She has constant pain in her hands ___ RA. She stopped taking 
her RA medications several months ago because she felt they 
weren't helping. Patient is incontinent of urine at baseline,  
also has issues with constipation. Thinks her last BM was ___ 
days ago but cannot be sure. Denies f/c. Patient states she has 
a hiatal hernia which sometimes causes nausea. She is adamant 
throughout the interview that she wants to go to sleep and does 
not want to be bothered at this hour in the morning. Would like 
to go home, does not want to speak to case manager or social 
worker. Patient is adamant that she does not want any more tests 
or medications until she speaks with her PCP. She feels she was 
lied to as to the reason she was  brought to the hospital.

In the ED, patient's vitals were as follows: T 97.8 HR 98 BP 
111/39 RR 18 SpO2 98% on RA. CBC without leukocytosis. BMP wnl.
CXR without pulm edema or PNA but did note distention of the 
esophagus and possibly stomach/bowel. Patient was given 600 mg 
IV clindamycin and oxycodone 5 mg PO. She was admitted to 
medicine for further work up and management. 

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
1.  Lumbar spinal stenosis.
2.  Osteoarthritis.
3.  Osteoporosis.
4.  Profound hearing loss, followed by Dr. ___.
5.  Constipation.
6.  Gastroesophageal reflux disease.
7.  Mitral valve prolapse.
8.  History of fecal incontinence.
9.  Hyperlipidemia.
10. Periperheral neuropathy.
11. Gait disorder, falls. 
12. Left patellar fracture, ___.
13. Large hiatal hernia.
14. Ulcer at GE junction, ___.
15. Restless legs syndrome. 
16. Choroidal melanoma, eye, ___.   Followed MEEI.
17. Anemia, ___. Not interested in further work up.
18. Rheumatoid arthritis, followed in Rheumatology.

PAST SURGICAL HISTORY:
1.  Excision of squamous papilloma of the tongue.
2.  Bilateral herniorrhaphies.
3.  Cataract surgery bilaterally.
4.  Bilateral breast excisions.
5.  Right trigger finger release ___.
6.  Left ORIF distal tibia/fibula fractures, ___.
7.  Pacemaker insertion, ___.

 
Social History:
___
Family History:
Family history of hearing loss and gastric ulcer
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. 
Extremely
hard of hearing
CV: Heart regular, no murmur, no S3, no S4.  No JVD. ___ ___
edema to upper shins b/l
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, slightly distended, non-tender to palpation. 
Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: b/l ___ erythema to upper shins, 3 cm round superficial
wound on back of R calf with small amount of slough and serous
drainage
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: defensive, cantankerous
 
Pertinent Results:
___ 06:42AM BLOOD WBC-5.8 RBC-2.79* Hgb-7.9* Hct-25.5* 
MCV-91 MCH-28.3 MCHC-31.0* RDW-14.9 RDWSD-49.7* Plt ___
___ 04:40PM BLOOD Neuts-57.3 ___ Monos-10.0 Eos-3.4 
Baso-0.2 Im ___ AbsNeut-4.94 AbsLymp-2.46 AbsMono-0.86* 
AbsEos-0.29 AbsBaso-0.02
___ 07:50AM BLOOD Ret Aut-2.4* Abs Ret-0.07
___ 06:42AM BLOOD Glucose-106* UreaN-15 Creat-0.7 Na-141 
K-4.2 Cl-107 HCO3-26 AnGap-8*
___ 07:50AM BLOOD calTIBC-272 VitB12-650 Folate->20 
___ Ferritn-34 TRF-209

CXR:
IMPRESSION: 
 
Oblong lucency projecting over the mediastinum from the top to 
the bottom of the chest suggest distension of the esophagus.  
Partially imaged upper abdomen also demonstrates distension of 
the stomach and possibly bowel.
 
Basilar atelectasis without definite focal consolidation.
 
Brief Hospital Course:
HPI: Ms. ___ is a ___ woman with RA on MTX, HLD, 
GERD, MVP, osteoporosis, and anxiety who presents from home for 
leg wound, concern for safety at home

# Chronic venous stasis with dermatitis:
# RLE venous stasis ulcer:
   When Ms. ___ arrived, there was a presumption of 
cellulitis.  However, it was clear from admission, that she had 
no evidence of infection and that her findings were most 
consistent with chronic venous stasis changes.  She was 
afebrile, had normal WBC and there was no tenderness/pain on the 
skin/superficial regions of the legs.  Furthermore, the poor 
appearance of the lower extremity may have been exacerbated 
further by sitting in the chair (with legs down) over most of 
the day.
   To evaluate, wound care service was consulted.  The following 
recommendations were made: (1) Commercial wound cleanser or 
normal saline to cleanse wounds.  Pat the tissue dry with dry 
gauze. (2) Moisturize B/L ___ and feet, intact skin only BID 
with Sooth And Cool Ointment. 
   To the R calf: Apply nickel thick layer of Santyl to yellow 
slough, Cover with ADAPTIC, Small Soft Sorb and Kling. Secure 
with Medipore tape.
   For bilat LLE: Apply Spiral Ace Wraps to Bilat LLE  ( just 
above toes to just below knees) -  Before patient gets OOB or 
after elevating ___ for ___ minutes prior to application.  
The ACE wraps should be removed at bed time.   
   Elevate ___ while sitting.  Furthermore Lasix was continued 
to minimize swelling. 

# Lethargy:
# Deconditioning:
   Ms. ___ Report of lethargy at home though patient denies 
any complaints on presentation here.  She lives at ___ 
senior facility with home services however visiting hospice RN 
expressed concern over patient safety at home, inability to care 
for self. Hospice privileges recently revoked. Patient has 
previously also voiced concern over her slowly declining 
functional capacity.  She wants to walk again and has agreed 
with ___.  
   She is far below baseline as she has been reported to be able 
to walk with walker within the past few months.  She will 
continue with her strengthening at rehab.  Pain has also been an 
limitation - which is addressed below

# RA:
# Chronic pain:
  Ms. ___ was previously on MTX and Plaquenil, but had self 
stopped.  She was then placed on oxycodone in the setting of 
hospice.  
   We reviewed her case with rheum - who felt that ideally it be 
ideal to resume her MTX and Plaquenil for some residual 
inflammation.  After much discussions, she finally agreed to 
take the medications - with the understanding that they will 
help to address the inflammation/pain over time (not 
immediately). Steroids were considered, but the potential side 
effects in the short term would be detrimental. She was treated 
with Tylenol ATC and Tramadol PRN - with good effect.  She also 
has RLS which can manifest as pain for Ms. ___.  

#RLS: she was placed on Ropinorole with change of 0.5 TID PRN to 
0.5 BID PRN+1 mg QHS. 

# Anemia, NOS: Hgb 8.2 from baseline ~ 10.  This appeared new 
over last year.  There were no clear signs of bleeding.  Anemia 
work up consistent with borderline iron deficiency and relative 
___. This can be monitored as outpatient. 

GENERAL/SUPPORTIVE CARE:
# Lines/Tubes/Drains: PIV
# Precautions: fall
# VTE prophylaxis: hep SC
# Consulting Services: Geriatrics, wound
# Contacts/HCP/Surrogate and Communication: ___  
___ 
# Code Status/Advance Care Planning: DNR/DNI

DISPO: She will require significant strengthening prior to go 
home at ___.  ___ will accept her after 
rehab if she arrives with 24 hr/7d week services.  Apparently, 
there is enough funds for her pay for this service on a limited 
basis.  Ms. ___ understands that she may need more 
high-skilled SNF thereafter, if she is unable manage in an 
unassisted living setting. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
2. darifenacin 7.5 mg oral DAILY 
3. Furosemide 20 mg PO DAILY 
4. rOPINIRole 0.5 mg PO TID:PRN restless legs 
5. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
6. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
7. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. Artificial Tears ___ DROP BOTH EYES QID 

 
Discharge Medications:
1.  Collagenase Ointment 1 Appl TP DAILY 
apply nickel thick to R calf wound    
2.  FoLIC Acid 1 mg PO DAILY  
3.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
4.  Methotrexate 15 mg PO QMON  
5.  Senna 8.6 mg PO QHS  
6.  TraMADol ___ mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg 0.5 - 1 tablet(s) by mouth every four (4) 
hours Disp #*60 Tablet Refills:*0 
7.  Acetaminophen 1000 mg PO TID  
8.  Artificial Tears ___ DROP BOTH EYES QID  
9.  Aspirin 81 mg PO DAILY  
10.  darifenacin 7.5 mg oral DAILY  
11.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
 
12.  Furosemide 20 mg PO DAILY  
13.  Omeprazole 20 mg PO DAILY  
14.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line  
15.  rOPINIRole 0.5 mg PO TID:PRN restless legs  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Venous stasis dermatitis
Rheumatoid arthritis
deconditioning

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
   As you know, you were admitted for evaluation of weakness and 
leg swelling.  You were found to have venous stasis and a 
superficial right leg ulcer - with no evidence of active 
infection.  For management, we recommend leg elevation, ACE 
bandage elevation, along with Lasix.  We also recommend ongoing 
___ and supportive care.
   To treat for pain (extremities, joints, hands), we recommend 
continuing with the methotrexate and plaquenil 
(Hydroxychloroquine) to address any contribution from RA-related 
inflammation.  In addition, Tylenol and tramadol as needed would 
be helpful for managing your pain.  This should help you perform 
the necessary ___ to regain your strength.
    Our goal is to enhance your strength so that you can manage 
further at your home at ___.  You will likely need 24 
hrs/7 day care at ___, however.  
    We wish you quick recovery and enhanced strengthening.

Your ___ Team 
 
Followup Instructions:
___